US05556990
2-(4-Bromophenyl)naphthalene (9.29 g, 32.8 mmol) is placed in a round bottom flask under argon and dissolved in anhydrous THF (150 mL). The solution is cooled to -78° C. in a dry ice/acetone bath with stirring. A solution of n-butyl lithium (2.0M, 18.0 ml) is added dropwise and after fifteen minutes 1-benzyl-3-piperidone (8.14 g, 36.08 mmol) in 20 mL of THF is added dropwise with vigorous stirring. After 30 minutes the solution is allowed to warm to room temperature and quenched with saturated ammonium chloride (10 ml). The mixture is diluted with ethyl acetate (500 ml), washed with water and brine. The organic layer is dried over MgSO4 and concentrated on a rotovap. The crude material is purified by silica gel flash column chromatography using 30% ethyl acetate in hexane as the eluant to yield 6.91 g (48%) of 1-benzyl-3-hydroxy-3(4-naphth-2-yl-phenyl)piperidine as a white solid.

reactant | 2-(4-Bromophenyl)naphthalene | 32.8 mmol, 9.29 g | BrC1=CC=C(C=C1)C1=CC2=CC=CC=C2C=C1 | C16H11Br
reactant | n-butyl lithium | 2.0M, 18.0 ml | C(CCC)[Li]
reactant | 1-benzyl-3-piperidone | 36.08 mmol, 8.14 g | C(C1=CC=CC=C1)N1CC(CCC1)=O | C12H15NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-benzyl-3-hydroxy-3(4-naphth-2-yl-phenyl)piperidine | 6.91 g, 48% | C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC=C(C=C1)C1=CC2=CC=CC=C2C=C1)O | C28H27NO
